US07291738B2
Preparation of tert-butyl 9-amino-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate
A mixture of tert-butyl 9-nitro-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.25 g, 0.75 mmol), zinc (1.48 g, 22.6 mmol) and calcium chloride (0.04 g, 0.38 mmol) in 78% ethanol (7.5 mL) was refluxed for 2 h and filtered hot. The filtrate was concentrated in vacuo to dryness to give 0.22 g (99%) of solid as the desired product: MS (EI) m/z 302 (MH+).

reactant | tert-butyl 9-nitro-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.75 mmol, 0.25 g | [N+](=O)([O-])C1=CC=2C3=C(NC2C=C1)CCN(CC3)C(=O)OC(C)(C)C | C17H21N3O4
reactant | calcium chloride | 0.38 mmol, 0.04 g | [Cl-].[Ca+2].[Cl-]
solvent | ethanol | 7.5 mL | C(C)O | C2H6O
catalyst | zinc | 22.6 mmol, 1.48 g | [Zn] | Zn
product | tert-butyl 9-amino-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.22 g, 99% | NC1=CC=2C3=C(NC2C=C1)CCN(CC3)C(=O)OC(C)(C)C | C17H23N3O2
